US09163003B2
(4-Methoxy-3-methyl-phenyl)-piperidin-4-yl-methanone
A suspension of 1-(4-(4-methoxy-3-methylbenzoyl)piperidin-1-yl)ethanone (5.45 g, 19.8 mmol) in 6 N HCl (40 mL) was heated to reflux for 12 h then concentrated in vacuo to a light purple solid. The material was taken up in ˜100 mL MeOH with heating and sonication, concentrated in vacuo to ˜25 mL, added diethyl ether (˜200 mL) to form white precipitate and a purple aqueous layer. The aqueous layer was removed via a pipet and concentrated in vacuo. The suspension was decanted through filter to recover a white solid (1.30 g). The aqueous material was concentrated in vacuo to form a purplish oil which was taken up in diethyl ether and the resulting suspension was filtered (0.82 g). The filtrate was concentrated in vacuo to a purple oil. The solid material was confirmed to be the title compound. Calculated molecular formula=C14H19NO2=233.31. found MS (ESI) m/e 233.9 (M+H+)

reactant | 1-(4-(4-methoxy-3-methylbenzoyl)piperidin-1-yl)ethanone | 19.8 mmol, 5.45 g | COC1=C(C=C(C(=O)C2CCN(CC2)C(C)=O)C=C1)C | C16H21NO3
solvent | HCl | 6 N, 40 mL | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | (4-Methoxy-3-methyl-phenyl)-piperidin-4-yl-methanone | COC1=C(C=C(C=C1)C(=O)C1CCNCC1)C | C14H19NO2
